US09376449B2
To a mixture of 2-allyl-6-chloro-4-nitrophenol (30.0 g), acetone (270 mL), and water (30.0 mL) were added a 2.5 wt % osmium (VIII) oxide solution in tert-butanol (10.0 mL) and 4-methylmorpholin-4-oxide (18.1 g), followed by stirring at room temperature for 41 hours. The reaction mixture was concentrated under reduced pressure, acidified with 1 M hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. The insoluble materials were separated by filtration, the filtrate was concentrated under reduced pressure, and the obtained solid was washed with a mixed solvent of chloroform and hexane to obtain 3-(3-chloro-2-hydroxy-5-nitrophenyl)propane-1,2-diol (20.8 g).

reactant | 2-allyl-6-chloro-4-nitrophenol | 30.0 g | C(C=C)C1=C(C(=CC(=C1)[N+](=O)[O-])Cl)O | C9H8ClNO3
reactant | acetone | 270 mL | CC(=O)C | C3H6O
reactant | water | 30.0 mL | O | H2O
solvent | tert-butanol | 10.0 mL | C(C)(C)(C)O | C4H10O
solvent | 4-methylmorpholin-4-oxide | 18.1 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | osmium (VIII) oxide | [Os](=O)(=O)(=O)=O
product | 3-(3-chloro-2-hydroxy-5-nitrophenyl)propane-1,2-diol | 20.8 g | ClC=1C(=C(C=C(C1)[N+](=O)[O-])CC(CO)O)O | C9H10ClNO5
